US06911560B2
1-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethanone
(S)-Phenylglycinol (28.9 g) was added in two portions to a solution of 2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanone (40 g) and N,N-di-iso-propylethylamine (48.9 ml) in THF (500 ml) under nitrogen. After 4 h the resulting white precipitate was removed by filtration and the mother liquor concentrated in vacuo to give an orange oil. Acetonitrile (40 ml) was added and then removed in vacuo to give a light orange solid which was pulverised and triturated with cold acetonitrile (50 ml). The resulting solid was collected by filtration and washed with acetonitrile (2×30 ml) to give the title compound (38.5 g) as a white solid.

reactant | (S)-Phenylglycinol | 28.9 g | C1=CC=C(C=C1)[C@@H](CO)N | C8H11NO
reactant | 2-bromo-1-(2,2-dimethyl-4H-1,3-benzodioxin-6-yl)ethanone | 40 g | BrCC(=O)C1=CC2=C(OC(OC2)(C)C)C=C1 | C12H13BrO3
reactant | N,N-di-iso-propylethylamine | 48.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 1-(2,2-Dimethyl-4H-1,3-benzodioxin-6-yl)-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethanone | 38.5 g | CC1(OCC2=C(O1)C=CC(=C2)C(CN[C@H](CO)C2=CC=CC=C2)=O)C | C20H23NO4
